US06492370B1
(1S)-1-Benzyl-2-(benzyloxy)ethylamine Hydrochloride (Reference Compound No. 12-1)
(1S)-1-Benzyl-2-(benzyloxy)-N-(t-butoxycarbonyl)ethylamine (205 mg) is dissolved in a 2.3 N solution of hydrogen chloride in methanol (3 ml), and the solution is stirred for one hour. The reaction mixture is concentrated under reduced pressure, ether is added to the concentrate, and the resulting precipitate is filtered off to give 143 mg (99%) of the titled compound (Reference compound No. 12-1) as crystals.

reactant | (1S)-1-Benzyl-2-(benzyloxy)-N-(t-butoxycarbonyl)ethylamine | 205 mg | C(C1=CC=CC=C1)[C@@H](C(OCC1=CC=CC=C1)C(=O)OC(C)(C)C)N | C21H27NO3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | (1S)-1-Benzyl-2-(benzyloxy)ethylamine Hydrochloride | 143 mg, 99% | Cl.C(C1=CC=CC=C1)[C@@H](COCC1=CC=CC=C1)N | InChI=1S/C16H19NO.ClH/c17-16(11-14-7-3-1-4-8-14)13-18-12-15-9-5-2-6-10-15;/h1-10,16H,11-13,17H2;1H/t16-;/m0./s1
